US04598156
A solution of 12.0 g of N-methoxycarbonyl-N-hydroxyaniline in 120 ml of vinyl acetate is stirred with 200 mg of Li2PdCl4 for 7 hours at 60° C.; it is then washed with brine, dried over magnesium sulfate and concentrated by evaporation. Chromatography through silica gel (toluene/ethyl acetate 4:1) yields 7.3 g of N-methoxycarbonylindole as colourless oil; IR spectrum (CHCl3): 1730 (CO): NMR spectrum (60 MHz, CDCl3): 1.47 (t, J=7, CH3); 4.47 (q, J=7, CH2); 6.53 (d, J=3.5, CH); 7.1-7.7 (m, 4H); 8.13 (m, 1H) ppm. 1.4 g of an O-acetylated educt in the form of yellow oil are obtained as a second fraction of chromatography.

reactant | N-methoxycarbonyl-N-hydroxyaniline | 12.0 g | COC(=O)N(C1=CC=CC=C1)O | C8H9NO3
reactant | vinyl acetate | 120 ml | C(C)(=O)OC=C | C4H6O2
product | N-methoxycarbonylindole | 7.3 g | COC(=O)N1C=CC2=CC=CC=C12 | C10H9NO2
